US08258140B2
TFA (10 mL) was added to tert-butyl 4-[2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]phenoxy]ethyl]piperazine-1-carboxylate (2.02 g, 3.50 mmol) in DCM (10 mL). The resulting solution was stirred at ambient temperature for 1 hour then added to an SCX column. The desired product was eluted from the column using 2M ammonia/MeOH and the solvents were evaporated to afford 6-[4-[4-[2-(piperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine (1.660 g, 99%) as a solid.

reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-[2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]phenoxy]ethyl]piperazine-1-carboxylate | 3.50 mmol, 2.02 g | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C28H38F3N7O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-[4-[2-(piperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine | 1.660 g, 99% | N1(CCNCC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C23H30F3N7O
